US08486963B2
Step 2: 7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (2-hydroxy-ethoxy)-amide
To a solution of 7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide (54 mg, 0.11 mmol) in IMS (3 mL) was added aqueous hydrochloric acid (0.5 mL, 1M, 0.5 mmol). The reaction was stirred at room temperature for 1 hour then concentrated in vacuo. The resultant residue was dissolved in ethyl acetate (10 mL), washed with aqueous saturated sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The product was triturated with MeOH/diethylether to yield the title compound as a light brown solid (20 mg, 39%). 1H NMR (d6-DMSO, 400 MHz) 11.32 (1H, s), 8.69 (1H, s), 7.98 (1H, s), 7.49 (1H, dd, J=11.0, 2.0 Hz), 7.40 (2H, s), 7.18-7.14 (1H, m), 6.74 (1H, s), 5.92 (1H, t, J=8.8 Hz), 4.65 (1H, t, J=5.6 Hz), 3.75 (2H, t, J=5.0 Hz), 3.46 (2H, q, J=5.0 Hz). LCMS (Method A): RT=8.14 min, M+H+=457.

reactant | 7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.11 mmol, 54 mg | C(=C)OCCONC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F | C18H16FIN4O3
reactant | hydrochloric acid | 0.5 mmol, 1M, 0.5 mL | Cl | ClH
product | 7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (2-hydroxy-ethoxy)-amide | 20 mg, 39% | OCCONC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F | C16H14FIN4O3
